US05422358
Preparation of 4-hydroxy-3-methoxyphenethyl chloride
Thionyl chloride (0.5 ml) was added, dropwise, to a! stirred solution of 4-hydroxy-3-methoxyphenethyl alcohol (0.83 g--commercially available) in dichloromethane (50 ml). When the addition was complete, the mixture was heated under reflux for 3 hours. On cooling to room temperature, the mixture was concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 2%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield 0.36 g.

reactant | Thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-3-methoxyphenethyl alcohol | OC1=C(C=C(CCO)C=C1)OC | C9H12O3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-hydroxy-3-methoxyphenethyl chloride | OC1=C(C=C(CCCl)C=C1)OC | C9H11ClO2
